US04000153
In the manner given in Example 3, 7-(trifluoromethyl)-1-methyl-5-(o-chlorophenyl)-s-triazolo[4,3-a]quinoline is oxidized at low temperature with sodium periodate and ruthenium dioxide to give 2'-chloro-5-(trifluoromethyl)-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone.

reactant | 7-(trifluoromethyl)-1-methyl-5-(o-chlorophenyl)-s-triazolo[4,3-a]quinoline | FC(C=1C=C2C(=CC=3N(C2=CC1)C(=NN3)C)C3=C(C=CC=C3)Cl)(F)F | C18H11ClF3N3
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium dioxide | [Ru](=O)=O
product | 2'-chloro-5-(trifluoromethyl)-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)C(F)(F)F)N1C(=NN=C1)C)=O | C17H11ClF3N3O
